US08426447B2
A mixture of (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (0.0500 g, 0.120 mmol), ethanol (2 mL), and palladium 10% on activated carbon (0.013 g, 0.012 mmol) was stirred under 1 atm of H2 gas overnight. The catalyst was filtered through celite and the filtrate was concentrated in vacuo to provide (S)-2′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a white solid.

reactant | (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.120 mmol, 0.0500 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)N=C(OC3)N | C20H21BrN2O3
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (S)-2′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | C(C(C)(C)C)OC1=CC=2[C@]3(C4=CC=CC=C4OC2C=C1)N=C(OC3)N | C20H22N2O3
